US07700641B2
Synthesis of ethyl(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetate
Following the procedure as described in EXAMPLE 1, and making non-critical variations using ethyl[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained as a white powder in 90% yield: 1H NMR (300 MHz, DMSO-d6) δ 7.31-7.26 (m, 1H), 7.17-7.00 (m, 3H), 6.67 (s, 1H), 6.18 (s, 1H), 5.90-5.89 (m, 2H), 4.76-4.66 (m, 2H), 4.59 (s, 2H), 4.13 (q, 2H), 1.17 (t, 3H); 13C NMR (75 MHz, DMSO-d6) δ 177.3, 168.3, 155.6, 148.8, 142.4, 142.1, 132.0, 129.3, 124.1, 123.7, 120.4, 109.6, 103.3, 101.9, 93.8, 79.8, 61.8, 57.8, 41.8, 14.5; MS (ES+) m/z 390.2 (M+23).

reactant | ethyl[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O)=O | C20H19NO7
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | ethyl(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetate | 90% yield | C(C)OC(CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O)=O | C20H17NO6
